US08236835B2
Synthesis of N-(4-fluorobenzyl)-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)pyrrolidin-1-yl)thiazole-5-carboxamide
To a solution of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide (0.13 g, 0.38 mmol) in a mixture of anhydrous tetrahydrofuran and 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (8/1, v/v) at −78° C. was added lithium bis(trimethylsilyl)amide in tetrahydrofuran (0.83 mL, 0.83 mmol) dropwise. The reaction mixture was stirred at −78° C. for 5 minutes, followed by the addition of 1-(bromomethyl)-4-(trifluoromethyl)benzene (0.058 mL, 0.38 mmol) dropwise. The reaction mixture was warmed to −30° C. in 30 minutes. Aqueous saturated ammonium chloride solution (10 mL) was added, followed by extraction with dichloromethane (3×10 mL). The combined organic solutions were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate/hexanes (1/1)) to afford the title compound as a white solid (0.075 g, 41%): mp 175-176° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.53 (d, J=7.9 Hz, 2H), 7.32-7.24 (m, 4H), 7.01 (t, J=8.9 Hz, 2H), 6.03 (t, J=5.6 Hz, 1H), 4.52 (d, J=5.6 Hz, 2H), 4.17-4.04 (m, 1H), 3.91-3.81 (m, 1H), 3.30 (dd, J=13.8, 4.3 Hz, 1H), 3.06-2.99 (m, 1H), 2.85 (dd, J=13.8, 8.9 Hz, 1H), 2.61 (s, 3H), 2.32-2.21 (m, 1H), 1.93-1.83 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 174.4, 162.3, 155.3, 152.8, 142.4, 133.8, 129.9, 129.6, 129.3, 125.6, 118.6, 115.7, 115.6, 45.9, 44.2, 43.4, 36.2, 24.4, 17.3; MS (ES+) m/z 492.3 (M+1).

reactant | N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide | 0.38 mmol, 0.13 g | FC1=CC=C(CNC(=O)C2=C(N=C(S2)N2C(CCC2)=O)C)C=C1 | C16H16FN3O2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-(bromomethyl)-4-(trifluoromethyl)benzene | 0.38 mmol, 0.058 mL | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.83 mmol, 0.83 mL | O1CCCC1 | C4H8O
product | N-(4-fluorobenzyl)-4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)pyrrolidin-1-yl)thiazole-5-carboxamide | 0.075 g, 41% | FC1=CC=C(CNC(=O)C2=C(N=C(S2)N2C(C(CC2)CC2=CC=C(C=C2)C(F)(F)F)=O)C)C=C1 | C24H21F4N3O2S
